US04595531
500 mg of 3,8-dichloro-1-methyl-6-phenyl-1,2,3,4-tetrahydro-1,5-benzodiazocine hydrochloride were heated in a solution of 110 mg sodium in 70 ml methanol under reflux for 12 hours. After evaporation of the methanol in a vacuum the mass was further processed with water/chloroform and the chloroform solution was evaporated and concentrated in a vacuum. The residue was taken up in isopropanol and reacted with an ether solution of hydrogen chloride. There was obtained 7-chloro-1-methyl-2-methoxymethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine hydrochloride which product also was identical with the product obtained directly by reaction of N-methyl-N-(2-hydroxy-3-benzoylaminopropyl)-4'-chloroaniline in phosphoroxychloride at 120° C. and subsequent reaction with sodium and methanol as disclosed in Examples 4 and 8 of application Ser. No. 355 986; m.p. 198°-210° C.

reactant | 3,8-dichloro-1-methyl-6-phenyl-1,2,3,4-tetrahydro-1,5-benzodiazocine hydrochloride | 500 mg | Cl.ClC1CN(C2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl)C
reactant | sodium | 110 mg | [Na] | Na
reactant | methanol | 70 ml | CO | CH4O
product | 7-chloro-1-methyl-2-methoxymethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine hydrochloride | Cl.ClC=1C=CC2=C(C(=NCC(N2C)COC)C2=CC=CC=C2)C1 | InChI=1S/C18H19ClN2O.ClH/c1-21-15(12-22-2)11-20-18(13-6-4-3-5-7-13)16-10-14(19)8-9-17(16)21;/h3-10,15H,11-12H2,1-2H3;1H
